US05502164
Boc-Phe(4-NO2)-OH (1.39 g) was dissolved in 70% methanol (100 ml) and adjusted to pH7 with the addition of 1N caesium bicarbonate. The solution was evaporated to dryness with the residue being evaporated three more times with added DMF. The resultant dried caesium salt of Boc-Phe(NO2)-OH was dissolved in DMF (60 ml) and shaken with BrCH2 -Pam-resin (1 meq of Br) overnight. Boc-Phe(4-NO2 --OCH2 -Pam-resin was isolated by filtration, washed with DCM and treated according to Table 1 (steps 10-14) to give the title compound as a free base.

reactant | Boc-Phe(4-NO2)-OH | 1.39 g | N([C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O)C(=O)OC(C)(C)C | C14H18N2O6
reactant | caesium bicarbonate | 1N | C([O-])(O)=O.[Cs+]
solvent | methanol | 100 ml | CO | CH4O
product | Boc-Phe | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
